US04935413
A solution of methacryloyl isocyanate (11.1 g; 0.1 mol) in 1,2-dichloroethane (50 ml) was dropise added to dry benzyl alcohol (10.8 g; 0.1 mol) under nitrogen stream while cooling with ice. After completion of the addition, 1,2-dichloroethane was evaporated under reduced pressure. The residue (21.8 g) was recrystallized from a mixture of hexane and benzene to give benzyl N-methacryloylcarbamate as colorless needles. M.P., 109°-110° C.

reactant | methacryloyl isocyanate | 0.1 mol, 11.1 g | C(C(=C)C)(=O)N=C=O | C5H5NO2
reactant | benzyl alcohol | 0.1 mol, 10.8 g | C(C1=CC=CC=C1)O | C7H8O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | benzyl N-methacryloylcarbamate | C(C(=C)C)(=O)NC(OCC1=CC=CC=C1)=O | C12H13NO3
